US08168835B2
1-Phenyl-hept-2-yn-1-ol (5o)
A colorless oil. [α]D25−18.1 (c 1.3, CHCl3); 1H NMR (400 MHz, CDCl3): δ 7.54-7.52 (m, 2H), 7.38-7.28 (m, 3H), 5.43 (d, J=5.6 Hz, 1H), 2.26 (td, J=7.2, 2.0 Hz, 2H), 2.13 (d, J=5.6 Hz, 1H), 1.55-1.36 (m, 4H), 0.898 (t, J=7.2 Hz, 3H); 13C NMR (100 MHz, CDCl3): δ 141.2 (C), 128.3 (CH×2), 127.9 (CH), 126.5 (CH×2), 87.3 (C), 79.9 (C), 64.5 (CH), 30.5 (CH2), 21.8 (CH2), 18.3 (CH2), 13.4 (CH3); IR (neat) 3397, 3031, 2958, 2933, 2873, 2227, 1950, 1884, 1809, 1603, 1494, 1455, 1135, 1002, 698 cm−1; HRMS calculated for C13H16O 188.1201, found 188.1192. Chiral HPLC analysis: Chiralcel OD-H, 2-propanol/hexane (10:90), 1.0 mL/min, uv 254 nm; tR=11.0 min (87.5%), 13.8 min (12.5%), 75% ee.

reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | 2-propanol hexane | CC(C)O.CCCCCC
product | 1-Phenyl-hept-2-yn-1-ol | C1(=CC=CC=C1)C(C#CCCCC)O | C13H16O
